US09388260B2
Monomeric CTA Synthesis (2-(methacryloyloxy)ethyl 2-acetylpent-2-enoate mixture)
To a magnetically stirred, 1000 mL, round bottom flask were added 200 mL of propionaldehyde and 587 mL 2-(methacryloyloxy)ethyl 3-oxobutanoate. The reaction mixture was cooled to 0° C., in an ice bath, and then 3 to 5 mL of piperidine was added dropwise over one minute. The mixture was stirred at 0° C., for 2 hours, and then allowed to warm to room temperature over the course of 2-2.5 hours. To the reaction mixture was slowly added 30 mL of 3N HCl, over about one minute, to neutralize the piperdine. The mixture was poured into a separatory funnel, and then 150 mL of deionized water was added. The mixture was shaken, and then the aqueous layer was separated and disposed of. The reaction mixture was washed three more times with 150 mL of deionized water, each time, and then dried over MgSO4. The reaction mixture was filtered, and then stabilized with 10 mass ppm of 4-hydroxy-TEMPO. The dried reaction mixture was used without further purification.

reactant | propionaldehyde | 200 mL | C(CC)=O | C3H6O
reactant | 2-(methacryloyloxy)ethyl 3-oxobutanoate | 587 mL | O=C(CC(=O)OCCOC(C(=C)C)=O)C | C10H14O5
reactant | piperidine | 3 to 5 mL | N1CCCCC1 | C5H11N
reactant | HCl | 3N, 30 mL | Cl | ClH
solvent | water | 150 mL | O | H2O
product | 2-(methacryloyloxy)ethyl 2-acetylpent-2-enoate | C(C)(=O)C(C(=O)OCCOC(C(=C)C)=O)=CCC | C13H18O5
